US04144283
One hundred and nineteen (119) parts of 4-chlororesorcine and 1.0 part of sodium hydroxide were reacted with 581 parts of propylene oxide at not higher than 5 kg/cm2, at 140°-170° C. for 40 minutes to obtain a 4-chlororesorcine-propylene oxide adduct (the average amount added, n=8) which was a light-yellow viscous liquid.

reactant | 4-chlororesorcine | ClC1=C(C=C(O)C=C1)O | C6H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | propylene oxide | C1C(C)O1 | C3H6O
product | 4-chlororesorcine propylene oxide | ClC1=C(C=C(O)C=C1)O.C1C(C)O1 | InChI=1S/C6H5ClO2.C3H6O/c7-5-2-1-4(8)3-6(5)9;1-3-2-4-3/h1-3,8-9H;3H,2H2,1H3
